US05262556
Preparation of 1-(4'-pentylbiphenyl-4-yl)-2-(3,5-di-fluoro-4-propylphenyl)ethane
A solution of lithium diisopropylamide (0.02 mol) in THF/hexane, prepared from 0.02 mol of diisopropylamine in 25 ml of THF and 12.5 ml of a 1.6-molar solution of n-butyllithium in hexane, is added dropwise at 25° C. to a mixture of 0.02 mol of 1-(4'-pentylbiphenyl-4-yl)-2-(3,5-difluorophenyl)ethane, 0.02 mol of N,N-dimethylpropyleneurea, 0.02 mol of 1-iodopropane and 25 ml of THF. After stirring at room temperature for 1.5 hours, the reaction mixture is poured into water, the phases are separated, and the aqueous phase is extracted with 2×50 ml of methylene chloride. Drying over magnesium sulfate, evaporation of the solvent and chromatography give the pure product.

reactant | lithium diisopropylamide | 0.02 mol | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 0.02 mol | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-(4'-pentylbiphenyl-4-yl)-2-(3,5-difluorophenyl)ethane | 0.02 mol | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)CCC1=CC(=CC(=C1)F)F | C25H26F2
reactant | N,N-dimethylpropyleneurea | 0.02 mol | CC1CN1C(=O)N(C)C | C6H12N2O
reactant | 1-iodopropane | 0.02 mol | ICCC | C3H7I
solvent | THF hexane | C1CCOC1.CCCCCC
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(4'-pentylbiphenyl-4-yl)-2-(3,5-di-fluoro-4-propylphenyl)ethane | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)CCC1=CC(=C(C(=C1)F)CCC)F | C28H32F2
